US05547919
A solution of methyl 4-(3-isopropylphenoxy)-6-methoxy-2-methyl-pyrimidin-5-yl-acetate (8.6 g, 26 mol) in 1,2-dimethoxyethane (20 ml) and N,N-diformylmethylamine (8 ml) is added at 5° C. to a suspension of NaH (1.6 g, 80% in oil, 52 mol) in DMF (30 ml). The mixture is stirred for 4 hours at room temperature. Dimethylsulfate (3.7 ml, 39 tool) is added at 0° C and stirring is continued for 3 hours. Dilution with ether, washing with brine and chromatography on silicagel (eluent hexane/ethyl acetate 3:1) gives methyl α-[4-(3-isopropylphenoxy )-6-methoxy-2-methyl-pyrimidin-5-yl]-β-methoxyacrylate as a colorless oil (7.2 g, 74%).

reactant | methyl 4-(3-isopropylphenoxy)-6-methoxy-2-methyl-pyrimidin-5-yl-acetate | 26 mol, 8.6 g | C(C)(C)C=1C=C(OC2=NC(=NC(=C2CC(=O)OC)OC)C)C=CC1 | C18H22N2O4
reactant | NaH | 52 mol, 1.6 g | [H-].[Na+]
reactant | Dimethylsulfate | 3.7 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | N,N-diformylmethylamine | 8 ml | C(=O)CNCC=O | C4H7NO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl α-[4-(3-isopropylphenoxy )-6-methoxy-2-methyl-pyrimidin-5-yl]-β-methoxyacrylate | 7.2 g, 74% | C(C)(C)C=1C=C(OC2=NC(=NC(=C2C(C(=O)OC)=COC)OC)C)C=CC1 | C20H24N2O5
